Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yof with no sig. PMH presenting with acute onset abdominal x 
several hours. Patient reports chronic, periodic abdominal pain 
x several months. Workup included CT abdomen which showed 
ileitis and colonoscopy with biopsy which was unrevealing. Stool 
studies to date have also been unremarkable. She describes the 
pain as crampy, lasting several seconds before resolving, 
targetting mid-lower abdomen. She denies any weightloss, fevers, 
chills, nausea or diarrhea. Each episode lasts around 8 hours 
before resolving.  She cannot identify a clear trigger. GI has 
been following. 
 
Past Medical History:
None
 
Social History:
___
Family History:
Great aunt who may have had Crohn's disesae. Mother with GERD.
 
Physical Exam:
VS: 98.1   98.4   62-63   98-104/61-62   16   100 RA
- General: NAD, A + O x 3, pleasant
- HEENT: supple, no LAD, OP clear
- Heart: RRR, no MRG
- Lungs: CTAB, no WRR
- Abdomen: soft, mildly TTP periumbilical epigastric, no RG, ABS
- Extremities: WWP, DP 2+, NT, no E

 
Pertinent Results:
___ 02:05PM URINE  UCG-NEGATIVE

___ 02:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
BLOOD-NEG NITRITE-NEG PROTEIN-15 GLUCOSE-NEG KETONE-15 
BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-NEG

___ 11:35PM   GLUCOSE-88 UREA N-11 CREAT-0.7 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-24 ANION GAP-15

___ 11:35PM   WBC-15.1*# RBC-4.31 HGB-13.1 HCT-37.2 MCV-86 
MCH-30.5 MCHC-35.3* RDW-13.2 NEUTS-85.6* LYMPHS-11.2* MONOS-2.0 
EOS-1.0 BASOS-0.3
PLT COUNT-277

___ 11:35PM   LIPASE-20 ALT(SGPT)-21 AST(SGOT)-23 ALK 
PHOS-42 TOT BILI-0.___/P: ___ yof without sig. PMH presenting with acute exacerbation 
of chronic, intermittent abdominal pain with CT-abdomen pos. for 
severe ileitis.
.  
# Abdominal Pain: initial differential Dx included appendicitis, 
PID, ovarian torsion, ___, IBD, PUD. Pelvic exam in ED was 
unremarkable and cultures were pending at discharge. 
CT-Ab/pelvis showed severe ileitis concerning for IBD. Physical 
exam was unremarkable. GI was consulted and recommended a bland 
diet with Cipro/Flagyl x 5 days. Stool cultures for Yersinia and 
blood for Yersinia Ig were also sent. Patient was discharged 
with instructions to follow up with Dr. ___ further 
evaluation. 
.  
# FEN: patient was initially placed on bowel rest and then 
advanced as tolerated.  She was tolerating clear liquid diet at 
discharge.  
.
# Dispo: at the time of discharge, patient reported minimal 
abdominal discomfort.  She was tolerating PO.  She was 
instructed to follow up with GI over the next several weeks for 
further evaluation.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

2. Flagyl 500 mg Tablet Sig: One (1) Tablet PO three times a day 
for 5 days: Do no drink while taking this medication or it will 
make ___ very ill. .
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileitis

 
Discharge Condition:
Improved. Minimal abdominal tenderness. Hemodynamically stable. 

 
Discharge Instructions:
Mrs. ___,

___ were admitted to the hospital for evaluation of your 
abdominal pain. CT scan of your abdomen was performed which 
showed inflammation in the wall of your ileum. A urinalysis was 
also performed which showed that ___ did not have a urinary 
tract infection.  Gatroenterology was consulted and would like 
___ to continue on antibiotics for the next 5 days. They would 
also like ___ to eat a bland diet consisting of things like 
bran, rice, apple sauce and toast. They are going to defer 
colonoscopy at this time and will follow up with ___ as an 
outpatient.

Please call your doctor or return to the emergency department 
for any of the following:
- continued or worsening abdominal pain, nausea, vomiting
- chest pain, shortness of breath
- fevers, chills
- large amounts of blood in your stool
- any other symptoms which concern ___

Please call Dr. ___ to schedule a follow up appointment with 
gastroenterology for further evaluation: ___
 
Followup Instructions:
___